### PR TITLE
feat: generalize `WellFoundedLT.induction_bot` 

### PR DESCRIPTION
**Pull request by vihdzp**
We change the signature of `WellFoundedLT.induction_bot` to match that of `WellFounded.induction_bot`, and introduce `WellFoundedLT.induction_bot'` which also takes in a function argument.

We then use this to slightly clean up the proof of bubblesort induction.

---

We don't need an `OrderBot` argument, as the inductive hypothesis already indirectly proves that `⊥` is a bottom element.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fin/Tuple/BubbleSortInduction.lean [hunk 1]
```diff
@@ -41,9 +41,8 @@ theorem bubble_sort_induction' {n : ℕ} {α : Type*} [LinearOrder α] {f : Fin
       i < j → (f ∘ σ) j < (f ∘ σ) i → P (f ∘ σ) → P (f ∘ σ ∘ Equiv.swap i j)) :
     P (f ∘ sort f) := by
   let := @Preorder.lift _ (Lex (Fin n → α)) _ fun σ : Equiv.Perm (Fin n) => toLex (f ∘ σ)
-  refine
-    @WellFounded.induction_bot' _ _ _ (IsWellFounded.wf : WellFounded (· < ·))
-      (Equiv.refl _) (sort f) P (fun σ => f ∘ σ) (fun σ hσ hfσ => ?_) hf
+  let : Bot (Equiv.Perm (Fin n)) := ⟨sort f⟩
+  refine WellFoundedLT.induction_bot' (a := Equiv.refl _) (f := (f ∘ ·)) (fun σ hσ hfσ => ?_) hf
```
Comment (plp127) [inline Mathlib/Data/Fin/Tuple/BubbleSortInduction.lean:45]: Can you write this with a call to `induction`?

Comment (vihdzp) [reply Mathlib/Data/Fin/Tuple/BubbleSortInduction.lean:45]: I couldn't figure out how, sorry.
